US06608072B1
a) N-Ethoxycarbonylpiperidine-4-thiocarboxamide
N-Ethoxycarbonylpiperidine-4-carboxamide (6 g 30 mmol) in toluene (300 ml) is treated with Lawesson's reagent (6.1 g 15 mmol) at room temperature for 18 h. The reaction mixture is evaporated and purified by SiO2 chromatography (acetone/cyclohexane 20/80) to yield the title compound, which is recrystallised from hexanes (3.6 g 52.5%)

reactant | N-Ethoxycarbonylpiperidine-4-carboxamide | 30 mmol, 6 g | C(C)OC(=O)NC(=O)C1CCNCC1 | C9H16N2O3
reactant | Lawesson's reagent | 15 mmol, 6.1 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N-Ethoxycarbonylpiperidine-4-thiocarboxamide | C(C)OC(=O)NC(=S)C1CCNCC1 | C9H16N2O2S
